*
* NGSPICE simulation script
* BJT amp with feedback

Four Square Circuit netlist

* forces current values to be saved
.options savecurrents

R1 5 6 1.02183054686k
R2 4 5 2.00519295062k
R3 8 5 3.01735849578k
R4 7 8 4.15136004156k
R5 3 8 3.04417402199k
R6 7 0 2.02196984898k
R7 0 1 1.00784334281k

Vaa 6 7 5.11339870586
Idd 2 3 1.0050415923m

Vnn 0 1 0

Gb 3 4 (5,8) 7.18106630963
Hc 8 1 Vnn 8.1227111635

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
print Vcc
print @Q1[ic]
print @Rf[i]

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

.model P2model NPN(Bf=200, CJE=12pF, CJC=2pF)
